US09340546B2
A suspension of pyrazole (150 mg, 2.2 mmol) and Cs2CO3(526 mg, 1.6 mmol) in anhydrous MeCN (3.5 mL) was stirred for 20 min under an inert atmosphere. 4-chloro-3-nitro-pyridine (233 mg, 1.47 mmol) was then added and stirred overnight at 75° C. The insoluble was filtered off and the filtrate was concentrated under reduced pressure yielding 3-nitro-4-(1H-pyrazol-1-yl)pyridine that was used without further purification. (410 mg, 98%). MS (ES+) 191.1.

reactant | pyrazole | 2.2 mmol, 150 mg | N1N=CC=C1 | C3H4N2
reactant | Cs2CO3 | 1.6 mmol, 526 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-3-nitro-pyridine | 1.47 mmol, 233 mg | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | MeCN | 3.5 mL | CC#N | C2H3N
product | 3-nitro-4-(1H-pyrazol-1-yl)pyridine | [N+](=O)([O-])C=1C=NC=CC1N1N=CC=C1 | C8H6N4O2
